US06399603B1
Ethyl 3-(2-((3,4-dichlorophenyl)amino)-4-hydroxy-6-nitroquinazolin-8-yl)propenoate.
A solution of 2-((3,4-dichlorophenyl)amino)-4-hydroxy-6-nitroquinazoline-8-carbaldehyde (100 mg) and ethoxycarbonylmethylene triphenylphosphorane (100 mg) in 1,2-dichloroethane (5 mL) was stirred at room temperature for 1 h. The mixture was concentrated to an oil, which was purified by preparative high pressure liquid chromatography (21.4 mm i.d.×30 cm Dynamax 300 Å C18 column; 30-90% CH3CN/H2O (+0.1% (v/v) CF3CO2H) gradient over 30 min, then to 100% CH3CN over 5 min; 15.0 mL/min flow; 1.0 min (15 mL) fractions). Fractions containing the desired product, as determined by analytical HPLC, were concentrated to afford the title compound as a crystalline yellow solid which was isolated by filtration and dried. Yield 14.2 mg. 1H NMR (300 MHz, CDCl3): δ8.79 (d, J=2.4 Hz, 1H); 8.61 (d, J=2.4 Hz, 1H), 8.20 (d, J=16.2 Hz, 1H); 7.72-7.52 (m, 3H), 6.98 (d, J=16.2 Hz, 1H), 4.20 (q, J=7.2 Hz, 2H); 1.27 (t, J=7.2 Hz, 3H). HPLC (Method A): 8.45 min. MS (APCI+): m/z 449, 451.

reactant | 2-((3,4-dichlorophenyl)amino)-4-hydroxy-6-nitroquinazoline-8-carbaldehyde | 100 mg | ClC=1C=C(C=CC1Cl)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C=O | C15H8Cl2N4O4
reactant | ethoxycarbonylmethylene triphenylphosphorane | 100 mg | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | Ethyl 3-(2-((3,4-dichlorophenyl)amino)-4-hydroxy-6-nitroquinazolin-8-yl)propenoate | ClC=1C=C(C=CC1Cl)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])C=CC(=O)OCC | C19H14Cl2N4O5
